US07560558B2
A mixture of 2-nitrobenzoyl chloride (500 mg) with 4-trimethylsilanyloxy-pent-3-en-2-one (540 mg) was stirred at 140° C. for 5 min. The reaction solution was cooled to room temperature and was then purified by column chromatography using acetone-hexane to give 3-(2-nitro-benzoyl)-pentane-2,4-dione (143 mg, yield 20%).

reactant | 2-nitrobenzoyl chloride | 500 mg | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | 4-trimethylsilanyloxy-pent-3-en-2-one | 540 mg | C[Si](OC(=CC(C)=O)C)(C)C | C8H16O2Si
product | 3-(2-nitro-benzoyl)-pentane-2,4-dione | 143 mg, yield 20% | [N+](=O)([O-])C1=C(C(=O)C(C(C)=O)C(C)=O)C=CC=C1 | C12H11NO5
